US08034938B2
tert-Butyl 3-[(11S)-6-amino-9-(methylsulfonyl)-8,9,10,11-tetrahydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinolin-11-yl]propylcarbamate (5.41 g, 11.4 mmol) was dissolved in 25 mL of ethanol and 25 mL of a 1.8 M solution of HCl in ethanol was added. The reaction mixture was heated to 75° C. After 1 hour, the reaction mixture was cooled and filtered to give a white solid. The resulting solid was stirred in refluxing ethanol for 30 minutes. The suspension was cooled and filtered to give a white solid. The solid was washed with a small portion of cold ethanol and then dried by suction to give (11S)-11-(3-aminopropyl)-9-(methylsulfonyl)-8,9,10,11-tetrahydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinolin-6-amine dihydrochloride hydrate (2.98 g) as an off-white powder (Anal. calcd for C17H22N6O2S2·2.0HCl·1.0H2O: C, 43.87; H, 5.63; N, 18.06. Found: C, 43.83; H, 5.53; N, 17.99). The free base could be prepared by dissolving the material in dilute NH4OH solution and extraction into CHCl3.

reactant | tert-Butyl 3-[(11S)-6-amino-9-(methylsulfonyl)-8,9,10,11-tetrahydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinolin-11-yl]propylcarbamate | 11.4 mmol, 5.41 g | NC1=NC2=CC=CC=C2C2=C1N=C1N2[C@H](CN(C1)S(=O)(=O)C)CCCNC(OC(C)(C)C)=O | C22H30N6O4S
reactant | HCl | Cl | ClH
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | (11S)-11-(3-aminopropyl)-9-(methylsulfonyl)-8,9,10,11-tetrahydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinolin-6-amine dihydrochloride hydrate | 2.98 g | O.Cl.Cl.NCCC[C@H]1CN(CC=2N1C1=C(C(=NC3=CC=CC=C13)N)N2)S(=O)(=O)C | InChI=1S/C17H22N6O2S.2ClH.H2O/c1-26(24,25)22-9-11(5-4-8-18)23-14(10-22)21-15-16(23)12-6-2-3-7-13(12)20-17(15)19;;;/h2-3,6-7,11H,4-5,8-10,18H2,1H3,(H2,19,20);2*1H;1H2/t11-;;;/m0.../s1
